US09340546B2
3-chloro-5-fluoro-4-(1-methyl-3,6-dihydro-2H-pyridin-4-yl)pyridine (377 mg, 1.663 mmol), tert-butyl carbamate (974.1 mg, 8.315 mmol), sodium tert-butoxide (815.1 mg, 8.481 mmol), BrettPhos pre-catalyst (66.25 mg, 0.08315 mmol) and BrettPhos (44.63 mg, 0.08315 mmol) were placed in a sealable tube an degassed by vacuum/nitrogen cycles (×5). Dry dioxane (10 mL) was added and the resulting mixture was placed into a pre-heated block at 100° C. and stirred at this temperature for 16 hours. Further portions of BrettPhos pre-catalyst (66.25 mg, 0.08315 mmol) and BrettPhos (44.63 mg, 0.08315 mmol) were added and the reaction heated at 100° C. for 8 hours. The reaction mixture was cooled to ambient temperature and quenched with saturated NH4Cl. The mixture was passed through a pre-wetted (EtOAc) celite cartridge (2.5 g). The cartridge was washed with EtOAc/saturated NH4Cl and the layers of the filtrate separated. The aqueous layer was extracted with EtOAc (×3) and the combined organic extracts were washed with brine (×1), dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (ISCO Companion, 40 g column, eluting with 0 to 10% MeOH/DCM, loaded in DCM) to give tert-butyl (5-fluoro-1′-methyl-1′,2′,3′,6′-tetrahydro-[4,4′-bipyridin]-3-yl)carbamate. MS (ES+) 308.2.

reactant | 3-chloro-5-fluoro-4-(1-methyl-3,6-dihydro-2H-pyridin-4-yl)pyridine | 1.663 mmol, 377 mg | ClC=1C=NC=C(C1C=1CCN(CC1)C)F | C11H12ClFN2
reactant | tert-butyl carbamate | 8.315 mmol, 974.1 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | sodium tert-butoxide | 8.481 mmol, 815.1 mg | CC(C)([O-])C.[Na+]
reactant | BrettPhos | 0.08315 mmol, 44.63 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
reactant | BrettPhos | 0.08315 mmol, 44.63 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
catalyst | BrettPhos | 0.08315 mmol, 66.25 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
catalyst | BrettPhos | 0.08315 mmol, 66.25 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
product | tert-butyl (5-fluoro-1′-methyl-1′,2′,3′,6′-tetrahydro-[4,4′-bipyridin]-3-yl)carbamate | FC=1C(=C(C=NC1)NC(OC(C)(C)C)=O)C=1CCN(CC1)C | C16H22FN3O2
